US04275069
A. 4,4-Dimethyl-2-hexanone
Cuprous iodide (19.0 gms., 0.098 moles) is placed in 100 ml. of ether and the reaction cooled to -37° C. (dry ice-acetonitrile). Ethyl magnesium bromide (3.0 mole solution, in ether, 70 ml., 210 mmoles) is then added slowly. The addition takes place over a twenty-minute period, and during this time the temperature of the reaction is never allowed to exceed -30° C. The blackish solution is allowed to cool at -37° C. and mesityl oxide (10 gms., 0.102 mole) (in ether, 50 ml.) is added dropwise. Mesityl oxide is added at such a rate so as to keep the temperature of reaction less than or equal to -10° C. Fifteen minutes after the completion of the reaction the suspension is poured onto 250 ml. of a saturated ammonium chloride solution. The organic layer is separated from the aqueous layer extracted with (3×50 ml.) portions of ether. The ether layers are combined and dried over magnesium sulfate. The drying agent is removed by vacuum filtration and the solvent removed under reduced pressure to yield a yellow oil. The oil is distilled under reduced pressure and gives two fractions: Fraction two contains 5.3 gms. (42%) of the titled compound as a yellow oil. The carbon:hydrogen analyses are 73.19 to 12.10. The mass spectrum exhibits peak at 73 (molecular ion), 71, 70, 59, 58, 57, 55, 43, 41, and 29. NMR absorptions are observed at 0.85 to 1.05, 1.25, 2.15, and 2.35δ. Infrared absorptions are observed at 1715, 1465, 1360, 1150, cm-1.

reactant | dry ice acetonitrile | C(=O)=O.C(C)#N
reactant | Ethyl magnesium bromide | 3.0 mole, 70 ml | C(C)[Mg]Br
reactant | mesityl oxide | 0.102 mole, 50 ml, 10 gms | O=C(C)C=C(C)C | C6H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 4,4-Dimethyl-2-hexanone | 42% | CC(CC(C)=O)(CC)C | C8H16O
